US04810423
1,2β-methylene-4-methoxyandrost-4-ene-3,17-dione [I, R=OMe; R1 =R2 =H; (a) and (b)=single bonds]
To a solution of 1,2β-methylene-4-hydroxyandrost-4-ene-3,17-dione (0.314 g, 1 mmol) in benzene (10 ml) potassium tert-butoxide (0.224 g, 2 mmol) is added and the mixture heated to reflux for 30 min. After cooling, iodomethane (0.710 g, 5 mmol) is added and the mixture boiled for further 2 hours. Then the organic solution is washed with water, dried and evaporated in vacuum. The flash column chromatography of the residue on silica gel using n-hexane/ethylacetate 60:40 affords 0.246 g (75% yield) of the title compound.

reactant | 1,2β-methylene-4-hydroxyandrost-4-ene-3,17-dione | 1 mmol, 0.314 g | C1C2[C@H]1C(C(=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)O)=O | C20H26O3
reactant | benzene | 2 mmol, 10 ml, 0.224 g | C1=CC=CC=C1 | C6H6
reactant | iodomethane | 5 mmol, 0.710 g | IC | CH3I
product | 1,2β-methylene-4-methoxyandrost-4-ene-3,17-dione | 0.246 g, 75% yield | C1C2[C@H]1C(C(=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)OC)=O | C21H28O3
